US08957080B2
Into a 250-mL 3-necked round-bottom flask purged and maintained under an inert atmosphere of nitrogen, was placed a solution of tert-butyl (3R)-3-[4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidine-1-carboxylate (500 mg, 1.13 mmol, 1.00 equiv) in 1,4-dioxane/H2O (100/30 mL), 2-[4-(2,5-difluorophenoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (420 mg, 1.26 mmol, 1.1 equiv), sodium carbonate (240 mg, 2.26 mmol, 2.0 equiv), and Pd(PPh3)4 (65 mg, 0.06 mmol, 0.05 equiv). The resulting solution was stirred for 12 h at 90° C. in an oil bath and then concentrated under vacuum. The residue was diluted with water and the resulting solution was extracted with dichloromethane and the organic layers were combined. The combined organics were washed with brine, dried over anhydrous sodium sulfate and concentrated. The residue was loaded onto a silica gel and eluted with dichloromethane/methanol (10/1) to give 510 mg (87%) of tert-butyl (3R)-3-[4-amino-3-[4-(2,5-difluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidine-1-carboxylate as a white solid.

reactant | tert-butyl (3R)-3-[4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidine-1-carboxylate | 1.13 mmol, 500 mg, 1.00 equiv | NC1=C2C(=NC=N1)N(N=C2I)[C@H]2CN(CCC2)C(=O)OC(C)(C)C | C15H21IN6O2
reactant | 2-[4-(2,5-difluorophenoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1.26 mmol, 420 mg, 1.1 equiv | FC1=C(OC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C)C=C(C=C1)F | C18H19BF2O3
reactant | sodium carbonate | 2.26 mmol, 240 mg, 2.0 equiv | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane H2O | 30 mL | O1CCOCC1.O
catalyst | Pd(PPh3)4 | 0.06 mmol, 65 mg, 0.05 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl (3R)-3-[4-amino-3-[4-(2,5-difluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidine-1-carboxylate | 510 mg, 87% | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=C(C=CC(=C2)F)F)[C@H]2CN(CCC2)C(=O)OC(C)(C)C | C27H28F2N6O3
